US05260442
A mixture of 6-[(3-fluoro-5-[4-methoxy-3,4,5,6-tetrahydro-2H-pyran -4-yl]phenoxy)methyl]quinoline (0.367 g), methyl iodide (0.2 ml) and acetonitrile (7 ml) was stirred at ambient temperature for 16 hours. The precipitate was filtered off to give 6-[(3-fluoro-5-[4-methoxy -3,4,5,6-tetrahydro-2H-pyran-4-yl]phenoxy)methyl]-1-methylquinolinium iodide (0.29 g) in 57% yield, m.p. 190° C.

reactant | 6-[(3-fluoro-5-[4-methoxy-3,4,5,6-tetrahydro-2H-pyran -4-yl]phenoxy)methyl]quinoline | 0.367 g | FC=1C=C(OCC=2C=C3C=CC=NC3=CC2)C=C(C1)C1(CCOCC1)OC | C22H22FNO3
reactant | methyl iodide | 0.2 ml | CI | CH3I
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | 6-[(3-fluoro-5-[4-methoxy -3,4,5,6-tetrahydro-2H-pyran-4-yl]phenoxy)methyl]-1-methylquinolinium iodide | 0.29 g, 57% yield | [I-].FC=1C=C(OCC=2C=C3C=CC=[N+](C3=CC2)C)C=C(C1)C1(CCOCC1)OC | InChI=1S/C23H25FNO3.HI/c1-25-9-3-4-18-12-17(5-6-22(18)25)16-28-21-14-19(13-20(24)15-21)23(26-2)7-10-27-11-8-23;/h3-6,9,12-15H,7-8,10-11,16H2,1-2H3;1H/q+1;/p-1
